US09315501B2
Step 1. 6-Bromo-5-(2,4-difluorophenoxy)-1H-1,2,3-benzotriazole
A solution of 4-bromo-5-(2,4-difluorophenoxy)benzene-1,2-diamine (0.071 g, 0.22 mmol) in acetic acid (0.4 mL) was treated with water (1.1 mL) followed by sodium nitrite (0.078 g, 1.1 mmol) and stirred at 20° C. for 30 min. The reaction mixture was diluted with ethyl acetate and water. The organic layer was separated, washed with saturated sodium bicarbonate (2×) and brine, dried with magnesium sulfate, filtered, and concentrated to give a crude brown oil. Purification by flash column chromatography (100% hexanes to 60% EtOAc/hexanes) gave the desired product (57 mg, 78%) as a yellow solid. LCMS calculated for C12H7BrF2N3O (M+H)+: m/z=326.0, 328.0. found: 325.9, 327.9.

reactant | 4-bromo-5-(2,4-difluorophenoxy)benzene-1,2-diamine | 0.22 mmol, 0.071 g | BrC=1C=C(C(=CC1OC1=C(C=C(C=C1)F)F)N)N | C12H9BrF2N2O
reactant | sodium nitrite | 1.1 mmol, 0.078 g | N(=O)[O-].[Na+]
solvent | acetic acid | 0.4 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 1.1 mL | O | H2O
product | 6-Bromo-5-(2,4-difluorophenoxy)-1H-1,2,3-benzotriazole | 57 mg, 78% | BrC=1C(=CC2=C(NN=N2)C1)OC1=C(C=C(C=C1)F)F | C12H6BrF2N3O
